US07199265B2
3,5-Dichloro-4-(4-amino-3-nitrophenoxy)phenylacetic acid (50 mg), methanol (20 mL) and thionyl chloride (2 drops) was heated at reflux for two hours. After cooling down to room temperature, the reaction mixture was partioned between an aqueous solution of sodium hydrogencarbonate (saturated) and ethyl acetate. The organic phase was washed with brine and concentrated. This gave 45 mg of methyl(3,5-dichloro-4-(4-amino-3-nitro-phenoxy)phenyl) acetate which was reduced using the method described in Example 1(f), to give 40 mg of methyl(3,5-dichloro-4-(3,4-diaminophenoxy)phenyl) acetate.

reactant | 3,5-Dichloro-4-(4-amino-3-nitrophenoxy)phenylacetic acid | 50 mg | ClC=1C=C(C=C(C1OC1=CC(=C(C=C1)N)[N+](=O)[O-])Cl)CC(=O)O | C14H10Cl2N2O5
reactant | methanol | 20 mL | CO | CH4O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | thionyl chloride | 2 drops | S(=O)(Cl)Cl | Cl2OS
product | methyl(3,5-dichloro-4-(3,4-diaminophenoxy)phenyl) acetate | 40 mg | C(C)(=O)OC1=C(C(=C(C(=C1)Cl)OC1=CC(=C(C=C1)N)N)Cl)C | C15H14Cl2N2O3
